US06008230
To a solution of 3-bromo-4-carboxymethyl-8-(2,6-dichlorobenzoylamino)quinoline (130 mg) in dry tetrahydrofuran was added 10M solution of borane-methyl sulfide complex in tetrahydrofuran (0.286 ml) at ambient temperature, and the mixture was stirred for 4 hours at the same temperature. The mixture was quenched by 1N hydrochloric acid and stirred for 1 hour at the same temperature. The mixture was extracted with ethyl acetate, and the extract was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate: n-hexane, 1:2, v/v) and crystallized from ethyl acetate-n-hexane to give 3-bromo-8-(2,6-dichlorobenzoylamino)-4-(2-hydroxyethyl)quinoline (68.4 mg).

reactant | 3-bromo-4-carboxymethyl-8-(2,6-dichlorobenzoylamino)quinoline | 130 mg | BrC=1C=NC2=C(C=CC=C2C1CC(=O)O)NC(C1=C(C=CC=C1Cl)Cl)=O | C18H11BrCl2N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.286 ml | O1CCCC1 | C4H8O
product | 3-bromo-8-(2,6-dichlorobenzoylamino)-4-(2-hydroxyethyl)quinoline | 68.4 mg | BrC=1C=NC2=C(C=CC=C2C1CCO)NC(C1=C(C=CC=C1Cl)Cl)=O | C18H13BrCl2N2O2
